US06090843
[6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-(Trimethylacetoxymethoxy)phenyl]methanone
[6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl][4-(Trimethylacetoxymethoxy)phenyl]methanone (760 mg, 1.5 mmol) was converted to the title compound by the procedure of Example 3 using 300 mg (4.5 mmol) of ethanethiol and 600 mg (4.5 mmol) of aluminum chloride.

reactant | [6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl][4-(Trimethylacetoxymethoxy)phenyl]methanone | 1.5 mmol, 760 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCOC(C(C)(C)C)=O)C2=CC=C(C=C2)OC)C1 | C29H28O6S
reactant | ethanethiol | 4.5 mmol, 300 mg | C(C)S | C2H6S
reactant | aluminum chloride | 4.5 mmol, 600 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | [6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-(Trimethylacetoxymethoxy)phenyl]methanone | Yield: 69% | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCOC(C(C)(C)C)=O)C2=CC=C(C=C2)O)C1 | C27H24O6S
